US06531613B1
C. Preparation of 3-bromo-2-(1-isobutyl-3-methylbutoxy)-7H-benzo[de]anthracene-7-one
A 500 ml three neck round bottom flask was equipped with a mechanical stirrer, heating mantle and condenser. To the flask was added 45 g (0.12 mole) of 2-(1-isobutyl-3-methylbutoxy)-7H-benzo[de]anthracene-7-one, 23.6 g (0.13 mole) N-bromosuccinimide and 265 g DMF. The mixture was agitated well, heated to 50° C. and held at 50° C. for two hours. Some of the DMF was stripped from the reaction using heat and vacuum and then 300 g chloroform were added to the flask. The resulting solution was washed three times with 250 g deionized water. The solvent was removed using a rotary evaporator; the yield was 52.5 g of a dark brown oil.

reactant | 2-(1-isobutyl-3-methylbutoxy)-7H-benzo[de]anthracene-7-one | 0.12 mole, 45 g | C(C(C)C)C(CC(C)C)OC1=CC2=C3C(C=CC=C3C(C=3C=CC=CC23)=O)=C1 | C26H28O2
reactant | N-bromosuccinimide | 0.13 mole, 23.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | DMF | 265 g | CN(C)C=O | C3H7NO
solvent | chloroform | 300 g | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-2-(1-isobutyl-3-methylbutoxy)-7H-benzo[de]anthracene-7-one | BrC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OC(CC(C)C)CC(C)C | C26H27BrO2
